US06320050B1
A solution of freshly prepared lithium diisopropylamide (23 mL of a 0.31 M stock solution, 7.13 mmol) cooled to −78° C. was treated with (4-trifluoromethyl-phenyl)-acetic acid (693 mg, 3.4 mmol) in tetrahydrofuran/hexamethylphosphoramide (8.5 mL, 3:1). The resulting solution was stirred at −78° C. for 30 min. Iodomethylcyclopentane (784 mg, 3.7 mmol) was then added in hexamethylphosphoramide (1 mL). The mixture was stirred at −78° C. for 4 h. The reaction was then warmed to 25° C. and was stirred at 25° C. for 16 h. The reaction mixture was then quenched by the dropwise addition of a saturated aqueous ammonium chloride solution (10 mL). The excess solvent was removed in vacuo. The residue was acidified to pH=1 with a 1 N aqueous hydrochloric acid solution. The mixture was then poured into water (150 mL) and extracted with ethyl acetate (3×100 mL). The organics were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 75/25 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-trifluoromethyl-phenyl)-propionic acid (634.9 mg, 65%) as a white solid: mp 94-95° C.; EI-HRMS m/e calcd for C15H17F3O2 (M+) 309.1079, found 309.1072.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (4-trifluoromethyl-phenyl)-acetic acid | 3.4 mmol, 693 mg | FC(C1=CC=C(C=C1)CC(=O)O)(F)F | C9H7F3O2
reactant | Iodomethylcyclopentane | 3.7 mmol, 784 mg | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran hexamethylphosphoramide | 8.5 mL | O1CCCC1.CN(P(=O)(N(C)C)N(C)C)C
solvent | hexamethylphosphoramide | 1 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 3-cyclopentyl-2-(4-trifluoromethyl-phenyl)-propionic acid | 634.9 mg, 65% | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C15H17F3O2
